US09238667B2
Synthesis of tert-butyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate
Into a 200 mL four-mouthed flask were added tert-butyl 3-(2-methoxyacetyl)-2-oxopyrrolidine-1-carboxylate potassium salt (9.00 g) [mw. 295.37, 30.47 mmol], 1 mol/L aqueous hydrochloric acid solution (50 mL) and toluene (90 mL), and the mixture was stirred at room temperature for 10 min. After partitioning, the organic layer was washed with water (50 mL), and dried over magnesium sulfate. After filtration, aniline (2.84 g) [mw. 93.13, 30.50 mmol], p-toluenesulfonic acid monohydrate (0.58 g) [mw. 190.22, 3.05 mmol] and cyclohexane (50 mL) were added. Dean-Stark trap was set, and distillation by thermal dehydration was performed for 1 hr. After cooling to room temperature, 5 w/w % aqueous acetic acid solution (50 mL) was added to allow for partitioning. The organic layer was washed successively with 5 w/w % aqueous sodium bicarbonate solution (50 mL) and water (50 mL), further washed with water (50 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. To the concentrate were added methanol (78 mL) and activated carbon (0.78 g), and the mixture was stirred at room temperature for 1 hr. After filtration, the mother liquor was concentrated under reduced pressure, and the solvent was replaced with ethyl acetate. To the concentrate was added diisopropyl ether (22 mL) to allow for crystallization, and the crystals were aged for 1 hr. After filtration under reduced pressure, the crystals were washed with diisopropyl ether (8 mL), and dried at 40° C. under reduced pressure to give the object compound. Pale-yellow crystals, 3.47 g, yield 34.3%, 1H-NMR (500 MHz, DMSO-d6, TMS) δ 1.47 (s, 9H), 2.70 (t, J=7.7 Hz, 2H), 3.26 (s, 3H), 3.65 (t, J=8.1 Hz, 2H), 4.06 (s, 2H), 7.07-7.14 (m, 3H), 7.31-7.35 (m, 2H), 10.34 (s, 1H). 13C-NMR (125 MHz, DMSO-d6) δ 20.29, 27.74, 43.23, 57.83, 67.40, 89.97, 100.10, 121.40, 123.48, 129.20, 139.43, 148.97, 150.33, 169.16. MS (ESI) m/z 333.1776 [M+H]+, 355.1629 [M+Na]+, 331.1672 [M−H]−. Found: C, 65.04; H, 7.28; N, 8.43%. Calcd for C18H24N2O4: C, 64.97; H, 7.20; N, 8.37%.

reactant | tert-butyl 3-(2-methoxyacetyl)-2-oxopyrrolidine-1-carboxylate potassium salt | 30.47 mmol, 9.00 g | [K].COCC(=O)C1C(N(CC1)C(=O)OC(C)(C)C)=O
reactant | hydrochloric acid | 1 mol/L, 50 mL | Cl | ClH
reactant | aniline | 30.50 mmol, 2.84 g | NC1=CC=CC=C1 | C6H7N
reactant | p-toluenesulfonic acid monohydrate | 3.05 mmol, 0.58 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | cyclohexane | 50 mL | C1CCCCC1 | C6H12
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate | yield 34.3% | COCC(NC1=CC=CC=C1)=C1C(N(CC1)C(=O)OC(C)(C)C)=O | C18H24N2O4
